Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ year old female p/w L5-S1 disc herniation and cauda equina
 
Major Surgical or Invasive Procedure:
L5-S1 laminectomy and discectomy on ___ by Dr. ___

 
History of Present Illness:
___ year old female with 3 days of back pain and urinary 
retention presents to ___ with concern for cauda equine.  
 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
NAD
nl resp effort
RRR
  
Sensory:
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         5      5      5         5
 
Pertinent Results:
___ 01:15AM   GLUCOSE-110* UREA N-15 CREAT-0.6 SODIUM-142 
POTASSIUM-3.5 CHLORIDE-106 TOTAL CO2-24 ANION GAP-12
___ 01:15AM   WBC-8.4 RBC-3.88* HGB-12.0 HCT-35.8 MCV-92 
MCH-30.9 MCHC-33.5 RDW-12.8 RDWSD-43.___ year old male with 3 days of back pain and urinary retention 
presents to ___ with concern for cauda equine. MRI showed 
L5-S1 disc herniation.  Patient taken emergently to OR for L5-S1 
laminectomy and discectomy by Dr. ___.  
Post-operatively the patient was transitioned to a regular diet 
and pain was controlled on PO medications.  Patient was 
mobilized with ___ and determined to be safe for discharge 
home.  
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*60 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*1 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*18 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
L5-S1 disc herniation with cauda equina

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have undergone the following operation: L5-S1 laminectomy 
and discectomy

Immediately after the operation:

•Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without moving around.

•Rehabilitation/ Physical Therapy:

___ times a day you should go for a walk for ___ 
minutes as part of your recovery.  You can walk as much as you 
can tolerate.

___ any kind of lifting.

•Diet: Eat a normal healthy diet. You may have some constipation 
after surgery.

•Brace: You do not need a brace.

•Wound Care: Remove the dressing in 2 days.  If the incision is 
draining cover it with a new sterile dressing.  If it is dry 
then you can leave the incision open to the air.  Once the 
incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office.

•You should resume taking your normal home medications.

•You have also been given Additional Medications to control your 
pain.  Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead.  You can either have them 
mailed to your home or pick them up at the clinic located on 
___.  We are not allowed to call in narcotic prescriptions 
(oxycontin, oxycodone, percocet) to the pharmacy.  In addition, 
we are only allowed to write for pain medications for 90 days 
from the date of surgery.

•Follow up:            

___ Call the office and make an appointment for 2 
weeks after the day of your operation if this has not been done 
already.

___ the 2-week visit we will check your incision, and 
answer any questions.

___ will then see you at 6 weeks from the day of the 
operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound

Physical Therapy:
No heavy lifting, twisting or bending. 
Treatments Frequency:
Remove the dressing in 2 days.  If the incision is draining 
cover it with a new sterile dressing.  If it is dry then you can 
leave the incision open to the air.  Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool.  If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing.  Call 
the office.
 
Followup Instructions:
___